US05254655
N-allyl-N-(2-hydroxyethyl)benzenamine (7.1 g, 0.04 mol) is treated with a solution of p-nitrobenzenediazonium chloride, as discussed in Example 5, to provide N-allyl-N-(2-hydroxyethyl)-4-(4'-nitrophenylazo)benzenamine.

reactant | N-allyl-N-(2-hydroxyethyl)benzenamine | 0.04 mol, 7.1 g | C(C=C)N(C1=CC=CC=C1)CCO | C11H15NO
reactant | p-nitrobenzenediazonium chloride | [Cl-].[N+](=O)([O-])C1=CC=C(C=C1)[N+]#N
product | N-allyl-N-(2-hydroxyethyl)-4-(4'-nitrophenylazo)benzenamine | C(C=C)N(C1=CC=C(C=C1)N=NC1=CC=C(C=C1)[N+](=O)[O-])CCO | C17H18N4O3
